US07728010B2
Step 1. Synthesis of 2-bromo-5-methoxybenzothiazole
A solution of bromine (3.6 eq) in chloroform (0.75M) was added dropwise over a of 1 hr to a stirred suspension of 5-methoxy-2-mercaptobenzothiazole (1 eq) in form at 0° C. The mixture was stirred for 30 min before it was added slowly to water and stirred for further 20 min. The mixture was filtered to remove a cream solid. The organic phase was dried and evaporated to leave a brown solid. The brown solid was dissolved in ether and filtered. The residue was washed with ether and the filtrate and washings were combined and evaporated, chromatographed (4:1 hexanes and ethyl acetate) to give the title compound as a pale yellow solid. MS: MH+=244

reactant | bromine | 3.6 eq | BrBr | Br2
reactant | 5-methoxy-2-mercaptobenzothiazole | 1 eq | COC=1C=CC2=C(N=C(S2)S)C1 | C8H7NOS2
reactant | water | O | H2O
solvent | chloroform | 0.75M | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 2-bromo-5-methoxybenzothiazole | BrC=1SC2=C(N1)C=C(C=C2)OC | C8H6BrNOS
